US06124323
2-(4-Benzyloxy-3-fluorophenoxy)ethyl bromide was prepared from 4-benzyloxy-3-fluorophenol (5.45 g, 0.025 mol), potassium carbonate (8.63 g, 0.625 mol) and 25 mL of 1,2-dibromoethane as a pale yellow solid (6.6 g, 81%): mp 63-65° C. 1H NMR (CDCl3) 3.606 (t, J=6.3 Hz, 2 H), 4.218 (t, J=6.3 Hz, 2 H), 5.082 (s, 2 H), 6.582 (m, 1 H), 6.699 (m, 1 H), 6.914 (m, 1 H), 7.318-7.440 (m, 5 H).

reactant | 4-benzyloxy-3-fluorophenol | 0.025 mol, 5.45 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)O)F | C13H11FO2
reactant | potassium carbonate | 0.625 mol, 8.63 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1,2-dibromoethane | 25 mL, 6.6 g | BrCCBr | C2H4Br2
product | 2-(4-Benzyloxy-3-fluorophenoxy)ethyl bromide | C(C1=CC=CC=C1)OC1=C(C=C(OCCBr)C=C1)F | C15H14BrFO2
